US09416135B2
To a solution of 1-isopropyl-7-(methylthio)-1,2,3,4-tetrahydropyrazino[1,2-a]indole (100 mg, 0.38 mmol) and DIPEA (246.72 mg, 1.91 mmol) in i-PrOH (2 mL) was added 1-(2-chloro-4-(trifluoromethyl)pyrimidin-5-yl)ethanone (172.50 mg, 0.76 mmol). The reaction mixture was stirred at rt overnight. The mixture was concentrated and purified by preparative TLC on silica gel eluting with PE/EtOAc 1:1 to afford 1-(2-(1-isopropyl-7-(methylthio)-3,4-dihydropyrazino[1,2-a]indol-2(1H)-yl)-4-(trifluoromethyl)pyrimidin-5-yl)ethanone (120 mg, 69.67% yield) as a colorless oil. LC-MS MS (ESI) m/z 449.2 [M+H]+. 1H NMR (CDCl3 400 MHz): δ 8.66 (s, 1H), 7.44-7.40 (m, 1H), 7.06 (d, J=8.4 Hz, 1H), 6.27-6.25 (m, 1H), 5.79-577 (m, 1H), 5.13-5.02 (m, 1H), 4.21-4.16 (m, 1H), 3.97-3.91 (m, 1H), 3.82-3.71 (m, 1H), 2.48 (s, 3H), 2.46 (s, 3H), 2.21-2.15 (m, 1H), 1.12-1.08 (m, 3H), 0.96-0.93 (m, 3H).

reactant | 1-isopropyl-7-(methylthio)-1,2,3,4-tetrahydropyrazino[1,2-a]indole | 0.38 mmol, 100 mg | C(C)(C)C1NCCN2C1=CC=1C=CC(=CC21)SC | C15H20N2S
reactant | DIPEA | 1.91 mmol, 246.72 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(2-chloro-4-(trifluoromethyl)pyrimidin-5-yl)ethanone | 0.76 mmol, 172.50 mg | ClC1=NC=C(C(=N1)C(F)(F)F)C(C)=O | C7H4ClF3N2O
solvent | i-PrOH | 2 mL | CC(C)O | C3H8O
product | 1-(2-(1-isopropyl-7-(methylthio)-3,4-dihydropyrazino[1,2-a]indol-2(1H)-yl)-4-(trifluoromethyl)pyrimidin-5-yl)ethanone | 120 mg, 69.67% yield | C(C)(C)C1N(CCN2C1=CC=1C=CC(=CC21)SC)C2=NC=C(C(=N2)C(F)(F)F)C(C)=O | C22H23F3N4OS
